US06608080B1
To a solution (6.5 ml) of 2-azabicyclo[3.3.1]nonane (100 mg, 0.62 mmol) in dimethoxyethane were added allylbromide (105 mg, 0.87 mmol) and potassium carbonate (94 mg, 0.68 mmol) and the mixture was heated at reflux temperature for 3.5 hours. Ether (10 ml) was added to the reaction mixture, followed by filtration and removal of the solvent, and the residue was purified with silica gel column chromatography (chloroform-methanol-triethylamine=100:9:1), to obtain 2-allyl-2-azabicyclo[3.3.1]nonane (52 mg, 51%) as a colorless oily substance.

reactant | 2-azabicyclo[3.3.1]nonane | 0.62 mmol, 6.5 ml, 100 mg | C12NCCC(CCC1)C2 | C8H15N
reactant | allylbromide | 0.87 mmol, 105 mg | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 0.68 mmol, 94 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ether | 10 ml | CCOCC | C4H10O
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 2-allyl-2-azabicyclo[3.3.1]nonane | 52 mg, 51% | C(C=C)N1C2CCCC(CC1)C2 | C11H19N
